US07384934B2
8,9-Di-fluoro-11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine hydrogenchloride
Combine 2-(4,5-difluoro-2-nitro-phenylamino)-benzo[b]thiophene-3-carbonitrile (2.03 g, 6.13 mmol) and Tin(II) chloride (3.49 g, 18.4 mmol) in a mixed solvent of EtOH (20 mL) and 5.0 N HCl (20 mL), heat the suspension to reflux for overnight, cool to RT. The title compound 2.05 g btaine as a yellow solid by suction filtration. 1H NMR (300 MHz, DMSO-d6): δ 11.56 (br, 1H), 10.06 (br, 1H), 9.14 (br, 2H), 7.96-7.85 (m, 1H), 7.71-7.64 (m, 1H), 7.49-7.42 (m, 1H), 7.34-7.29 (m, 1H), 7.22-7.16 (m, 1H), 7.11-7.04 (m, 2H).

reactant | 2-(4,5-difluoro-2-nitro-phenylamino)-benzo[b]thiophene-3-carbonitrile | 6.13 mmol, 2.03 g | FC1=CC(=C(C=C1F)NC1=C(C2=C(S1)C=CC=C2)C#N)[N+](=O)[O-] | C15H7F2N3O2S
reactant | Tin(II) chloride | 18.4 mmol, 3.49 g | [Sn](Cl)Cl
reactant | HCl | 5.0 N, 20 mL | Cl | ClH
solvent | EtOH | 20 mL | CCO | C2H6O
product | 8,9-Di-fluoro-11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine hydrogenchloride | Cl.FC1=CC2=C(NC=3SC4=C(C3C(=N2)N)C=CC=C4)C=C1F | InChI=1S/C15H9F2N3S.ClH/c16-8-5-10-11(6-9(8)17)20-15-13(14(18)19-10)7-3-1-2-4-12(7)21-15;/h1-6,20H,(H2,18,19);1H
